US09387200B2
b) 5-Methyl-3-phenyl-isothiazole-4-carboxylic acid ethyl ester
To a solution of the 2-(amino-phenyl-methylene)-3-oxo-butyric acid ethyl ester (41 g, 170 mmol) in toluene (340 mL) were added P2S5 (117.3 g, 520 mmol) and tetrachloro-1,4-benzoquinone (43.2 g, 170 mmol) at r.t. with stirring. The mixture was then refluxed with stirring for 15 min. After cooling to r. t. the mixture was filtered and the filtrate was concentrated to give a brown oil, which was purified by flash column chromatography on silica gel. Elution with 5-35% EtOAc/hexanes gave the title compound as a reddish oil (16.7 g): MS (m/z) 248.2 (M+1).

reactant | 2-(amino-phenyl-methylene)-3-oxo-butyric acid ethyl ester | 170 mmol, 41 g | C(C)OC(C(C(C)=O)=C(C1=CC=CC=C1)N)=O | C13H15NO3
reactant | P2S5 | 520 mmol, 117.3 g | P12(=S)SP3(=S)SP(=S)(S1)SP(=S)(S2)S3 | P4S10
reactant | tetrachloro-1,4-benzoquinone | 170 mmol, 43.2 g | ClC1=C(C(C(=C(C1=O)Cl)Cl)=O)Cl | C6Cl4O2
solvent | toluene | 340 mL | C1(=CC=CC=C1)C | C7H8
product | 5-Methyl-3-phenyl-isothiazole-4-carboxylic acid ethyl ester | 16.7 g | C(C)OC(=O)C=1C(=NSC1C)C1=CC=CC=C1 | C13H13NO2S
